US07241760B2
2-[4-(3-Chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-4-methyl-pyridine
The title compound, MS: m/e=308.2 (M+H+), was prepared in accordance with the general method of example 1 from 4-(3-chloro-phenylethynyl)-2-methyl-1H-imidazole and 2-fluoro-4-methyl-pyridine.

reactant | 4-(3-chloro-phenylethynyl)-2-methyl-1H-imidazole | ClC=1C=C(C=CC1)C#CC=1N=C(NC1)C | C12H9ClN2
reactant | 2-fluoro-4-methyl-pyridine | FC1=NC=CC(=C1)C | C6H6FN
product | 2-[4-(3-Chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-4-methyl-pyridine | ClC=1C=C(C=CC1)C#CC=1N=C(N(C1)C1=NC=CC(=C1)C)C | C18H14ClN3
